US08648066B2
N-ethyl-6-(4-quinolin-4-yl-2,3,4,5-tetrahydro-1,4-benzoxazepin-7-yl)-1H-benzimidazol-2-amine
A solution of 7-[2-(methylthio)-1H-benzimidazol-6-yl]-4-quinolin-4-yl-2,3,4,5-tetra-hydro-1,4-benzoxazepine (52 mg, 0.12 mmol, prepared according to the method of example 19) and ethylamine (1.5 mL) in ethanol (3 mL) heated with microwave irradiation at 150° C. for 8 h. Purification of the crude material by preparative reverse phase HPLC (0.1% aqueous ammonium acetate-acetonitrile) provided the title Compound as acetate salt (4 mg, 7% yield) as a colorless solid. 1H NMR (400 MHz, methanol-d4): 8.55 (d, 1H), 8.15 (d, 1H), 7.95 (d, 1H), 7.73 (m, 1H), 7.60-7.50 (m, 3H), 7.42 (m, 1H), 7.33 (dd, 1H), 7.29 (d, 1H), 7.09 (m, 2H), 4.69 (s, 2H), 4.41 (m, 2H), 3.92 (m, 2H), 3.44 (q, 2H), 1.94 (s, 3H), 1.31 (t, 3H); MS (EI) for C27H25N5O: 436 (MH+).

reactant | 7-[2-(methylthio)-1H-benzimidazol-6-yl]-4-quinolin-4-yl-2,3,4,5-tetra-hydro-1,4-benzoxazepine | CSC1=NC2=C(N1)C=C(C=C2)C=2C=CC1=C(CN(CCO1)C1=CC=NC3=CC=CC=C13)C2 | C26H22N4OS
reactant | ethylamine | 1.5 mL | C(C)N | C2H7N
solvent | ethanol | 3 mL | C(C)O | C2H6O
product | N-ethyl-6-(4-quinolin-4-yl-2,3,4,5-tetrahydro-1,4-benzoxazepin-7-yl)-1H-benzimidazol-2-amine | C(C)NC1=NC2=C(N1)C=C(C=C2)C=2C=CC1=C(CN(CCO1)C1=CC=NC3=CC=CC=C13)C2 | C27H25N5O
